US05401378
2-Ethyl-4,5-di(hydroxymethyl)-2-methyl-1,3-dioxolane
A solution of 4,5-diethoxycarbonyl-2-ethyl-2-methyl-1,3-dioxolane (13.68 g, 52.6 mmol) in dry ether (80 ml) was added dropwise over 30 min to a suspension of lithiumaluminiumhydride (2.4 g, 63.2 mmol) in dry ether (100 ml) and the mixture was refluxed under nitrogen for 2 h then stirred at room temperature overnight then refluxed for 2 further hours. On cooling, water (2.5 ml), sodium hydroxide (4N, 2.5 ml) and water (25 ml) were sequentially added cautiously down the condenser. The supernatant was decanted off and the residue was triturated with ether (2×100 ml). The combined ether layers were dried over sodium sulfate, filtered and evaporated to dryness. The residue was distilled under high vacuum (approx. 2 mm, 160 deg.) to give the title compound as a clear oil (5.41 g, 58%).

reactant | 4,5-diethoxycarbonyl-2-ethyl-2-methyl-1,3-dioxolane | 52.6 mmol, 13.68 g | C(C)OC(=O)C1OC(OC1C(=O)OCC)(C)CC | C12H20O6
reactant | lithiumaluminiumhydride | 63.2 mmol, 2.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2.5 ml | O | H2O
reactant | sodium hydroxide | 4N, 2.5 ml | [OH-].[Na+]
reactant | water | 25 ml | O | H2O
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-Ethyl-4,5-di(hydroxymethyl)-2-methyl-1,3-dioxolane | 5.41 g, 58% | C(C)C1(OC(C(O1)CO)CO)C | C8H16O4
